US05869482
To a suspension of Cp2ZrHCl (2.58 g) in dry THF (50 mL) was added 2-fluoro-3-(tributylstannylethynyl)pyridine (2.05 g). After 2 hours the mixture was diluted with hexane and filtered through a short silica gel column. Evaporation of the solvents gave Z-2-fluoro-3-(2-tributylstannylethenyl)pyridine as an oil (1.72 g).

reactant | 2-fluoro-3-(tributylstannylethynyl)pyridine | 2.05 g | FC1=NC=CC=C1C#C[Sn](CCCC)(CCCC)CCCC
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | Z-2-fluoro-3-(2-tributylstannylethenyl)pyridine | 1.72 g | FC1=NC=CC=C1\C=C/[Sn](CCCC)(CCCC)CCCC | InChI=1S/C7H5FN.3C4H9.Sn/c1-2-6-4-3-5-9-7(6)8;3*1-3-4-2;/h1-5H;3*1,3-4H2,2H3;
